US07534273B2
Stage 1: Synthesis of (4E)-4-[4-hydroxy-3-methyloxy-benzylidene)-5-methyl-2-(2-pyridinyl)-2,4-dihydro-3H-pyrazol-3-one
1.4 g (7.99 mmol) of 5-methyl-2-(2-pyridinyl)-2,4-dihydro-3H-pyrazol-3-one and 1.84 g (11.98 mmol) of 4-hydroxy-3-methoxybenzaldehyde are stirred under reflux with the addition of 3 ml of piperidine in absolute ethanol for 2 hours. The mixture is then diluted with water and slowly rendered neutral with 2N hydrochloric acid. After cooling in the ice bath, the orange precipitate which settles out is filtered off, washed with water and dried under reduced pressure.

reactant | 5-methyl-2-(2-pyridinyl)-2,4-dihydro-3H-pyrazol-3-one | 7.99 mmol, 1.4 g | CC=1CC(N(N1)C1=NC=CC=C1)=O | C9H9N3O
reactant | 4-hydroxy-3-methoxybenzaldehyde | 11.98 mmol, 1.84 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | piperidine | 3 ml | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | hydrochloric acid | 2N | Cl | ClH
product | (4E)-4-[4-hydroxy-3-methyloxy-benzylidene)-5-methyl-2-(2-pyridinyl)-2,4-dihydro-3H-pyrazol-3-one | OC1=C(C=C(\C=C/2\C(N(N=C2C)C2=NC=CC=C2)=O)C=C1)OC | C17H15N3O3
